US05346647
A solution of 4 g of 4-hydroxy-4'-[4-(trans-4-pentylcyclohexyl)-1-butyl]biphenyl, 1.3 g of ethyl L(-)-lactate, 2.9 g of triphenylphosphine and 100 ml of tetrahydrofuran was treated with 1.9 g of diethyl azodicarboxylate. The reaction mixture was stirred at room temperature overnight, then concentrated and suspended with 100 ml of hot hexane. The precipitate which thereby resulted was removed by filtration and the filtrate was concentrated. Chromatography of the residue on silica gel with toluene/ethyl acetate (vol. 4:1) and recrystallization from ethanol gave 2.9 g of pure ethyl 2(R)-[4'-[4-(trans-4-pentylcyclohexyl)-1-butyl]-4-biphenylyloxy]propionate with m.p. (C-SB) 71° C. and cl.p. (SB -I) 76° C.

reactant | 4-hydroxy-4'-[4-(trans-4-pentylcyclohexyl)-1-butyl]biphenyl | 4 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)CCCC[C@@H]1CC[C@H](CC1)CCCCC | C27H38O
reactant | ethyl L(-)-lactate | 1.3 g | CCOC(=O)[C@H](C)O | C5H10O3
reactant | triphenylphosphine | 2.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.9 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 2(R)-[4'-[4-(trans-4-pentylcyclohexyl)-1-butyl]-4-biphenylyloxy]propionate | 2.9 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCCCC1=CC=C(C=C1)C1=CC=C(C=C1)O[C@@H](C(=O)OCC)C | C32H46O3
